data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:2](=[O:3])([c:13]1[cH:8][c:14]([N+:17](=[O:7])[O-:19])[cH:18][c:12]2[c:28]1[n:16][o:25][n+:35]2[O-:4])[O-:15].[cH:1]1[cH:20][cH:30][c:9]([S:34](=[O:10])(=[O:11])[CH:22]=[C:32]2[CH:5]=[CH:26][C:33](=[N+:29]([O-:23])[O-:24])[CH:27]=[CH:6]2)[cH:31][cH:21]1>>[cH:1]1[cH:20][cH:30][c:9]([S:34](=[O:10])(=[O:11])[CH:22]([CH:18]2[c:12]3[c:28]([n:16][o:25][n+:35]3[O-:4])[C:13]([N+:2](=[O:3])[O-:15])=[CH:8][C:14]2=[N+:17]([O-:7])[O-:19])[c:32]2[cH:5][cH:26][c:33]([N+:29](=[O:23])[O-:24])[cH:27][cH:6]2)[cH:31][cH:21]1", "epd": [["LP-/Pi+", [23], [29, 23]], ["Pi-/Pi+", [33, 29], [27, 33]], ["Pi-/Pi+", [6, 27], [32, 6]], ["Pi-/Sigma+", [22, 32], [22, 18]], ["Pi-/Pi+", [18, 14], [14, 17]], ["Pi-/LP+", [17, 7], [7]]]}
{"reaction_name": "Henry (nitroaldol) addition", "rsmi": "[CH2-:3][N+:4]([O-:6])=[O:7].[O:1]=[CH:5][CH3:2]>>[O-:1][CH:5]([CH3:2])[CH2:3][N+:4]([O-:6])=[O:7]", "epd": [["LP-/Sigma+", [3], [3, 5]], ["Pi-/LP+", [1, 5], [1]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:1]([c:11]1[cH:2][n:9][c:14]2[c:16]([n+:6]([O-:5])[o:13][n:23]2)[cH:17]1)(=[O:18])[O-:21].[S:3]1(=[O:24])(=[O:25])[c:15]2[c:7]([cH:12][cH:4][cH:19][cH:10]2)[C:22]([O-:8])=[N:20]1>>[N+:1](=[C:11]1[CH:2]=[N:9][c:14]2[c:16]([n+:6]([O-:5])[o:13][n:23]2)[CH:17]1[N:20]1[S:3](=[O:24])(=[O:25])[c:15]2[c:7]([cH:12][cH:4][cH:19][cH:10]2)[C:22]1=[O:8])([O-:18])[O-:21]", "epd": [["LP-/Pi+", [8], [22, 8]], ["Pi-/Sigma+", [20, 22], [20, 17]], ["Pi-/Pi+", [17, 11], [11, 1]], ["Pi-/LP+", [1, 18], [18]]]}
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[CH3:1][O:3][c:4]1[cH:20][cH:9][c:8]([CH:17]=[C:16]2[CH:18]=[C:5]([Br:14])[C:7](=[O:13])[C:6]([Br:15])=[CH:19]2)[cH:10][cH:21]1.[N+:2](=[N-:11])=[N-:12]>>[CH3:1][O:3][c:4]1[cH:20][cH:9][c:8]([CH:17]([N-:11][N+:2]#[N:12])[c:16]2[cH:18][c:5]([Br:14])[c:7]([O-:13])[c:6]([Br:15])[cH:19]2)[cH:10][cH:21]1", "epd": [["LP-/Pi+", [12], [2, 12]], ["Pi-/Sigma+", [11, 2], [11, 17]], ["Pi-/Pi+", [17, 16], [16, 18]], ["Pi-/Pi+", [18, 5], [5, 7]], ["Pi-/LP+", [7, 13], [13]]]}
{"reaction_name": "Lemieux–Johnson oxidation", "rsmi": "[CH2:1]=[CH2:2].[O:3]=[I:4](=[O:5])(=[O:6])[O:7][H:8].[O:9]=[I:10](=[O:11])(=[O:12])[O:13][H:14].[O:15]=[Os:16](=[O:17])(=[O:18])=[O:19]>>[CH2:1]=[O:3].[CH2:2]=[O:9].[I:4](=[O:5])(=[O:6])[O:7][H:8].[I:10](=[O:11])(=[O:12])[O:13][H:14].[O:15]=[Os:16](=[O:17])(=[O:18])=[O:19]", "epd": [["Sigma-/Sigma+", [1, 2], [1, 3]], ["Pi-/Sigma+", [1, 2], [2, 9]], ["LP-/Pi+", [3], [1, 3]], ["Sigma-/LP+", [3, 4], [4]], ["LP-/Pi+", [9], [2, 9]], ["Sigma-/LP+", [9, 10], [10]]]}
{"reaction_name": "Electrophilic fluorination", "rsmi": "[CH3:5][CH2:21][c:22]1[c:11]([CH3:29])[cH:12][nH:18][c:16]1[CH3:10].[O:1]=[S:20](=[O:2])([N:17]([F:15])[S:19](=[O:3])(=[O:4])[c:27]1[cH:6][cH:23][cH:13][cH:26][cH:9]1)[c:28]1[cH:7][cH:24][cH:14][cH:25][cH:8]1>>[CH3:5][CH2:21][C:22]1=[C:11]([CH3:29])[CH:12]([F:15])[NH+:18]=[C:16]1[CH3:10].[O:1]=[S:20](=[O:2])([N-:17][S:19](=[O:3])(=[O:4])[c:27]1[cH:6][cH:23][cH:13][cH:26][cH:9]1)[c:28]1[cH:7][cH:24][cH:14][cH:25][cH:8]1", "epd": [["LP-/Pi+", [18], [16, 18]], ["Pi-/Pi+", [22, 16], [11, 22]], ["Pi-/Sigma+", [12, 11], [12, 15]], ["Sigma-/LP+", [15, 17], [17]]]}
{"reaction_name": "Electrophilic chlorination", "rsmi": "[C:2]1([Cl:5])([Cl:6])[CH:18]=[C:23]([Cl:24])[c:25]2[cH:3][cH:9][cH:22][n:4][c:16]2[C:21]1=[O:14].[CH:1]([C:12](=[O:13])[c:17]1[cH:7][cH:27][c:15]([N:26]([CH3:19])[CH3:20])[cH:28][cH:8]1)=[S:29]([CH3:10])[CH3:11]>>[CH:1]([Cl:5])([C:12](=[O:13])[c:17]1[cH:7][cH:27][c:15]([N:26]([CH3:19])[CH3:20])[cH:28][cH:8]1)[S+:29]([CH3:10])[CH3:11].[c:2]1([Cl:6])[cH:18][c:23]([Cl:24])[c:25]2[cH:3][cH:9][cH:22][n:4][c:16]2[c:21]1[O-:14]", "epd": [["Pi-/Sigma+", [1, 29], [1, 5]], ["Sigma-/Pi+", [5, 2], [2, 21]], ["Pi-/LP+", [21, 14], [14]]]}
{"reaction_name": "Michael addition", "rsmi": "[O:3]=[N+:21]([O-:10])[c:15]1[cH:4][cH:7][c:11]([CH:16]=[CH:12][N+:14]([O-:20])=[O:22])[cH:8][cH:5]1.[cH:1]1[c:18]2[cH:17][cH:9][cH:2][cH:13][c:23]2[cH-:6][cH:19]1>>[CH:1]1=[CH:19][CH:6]([CH:16]([c:11]2[cH:7][cH:4][c:15]([N+:21](=[O:3])[O-:10])[cH:5][cH:8]2)[CH:12]=[N+:14]([O-:20])[O-:22])[c:23]2[cH:13][cH:2][cH:9][cH:17][c:18]21", "epd": [["LP-/Sigma+", [6], [6, 16]], ["Pi-/Pi+", [16, 12], [12, 14]], ["Pi-/LP+", [14, 22], [22]]]}
{"reaction_name": "Anionic nucleophile capture of a preformed localized carbocation", "rsmi": "[C:1]1(=[O:6])[CH:22]=[CH:7][C:13](=[N+:24]([O-:11])[O-:12])[CH:8]=[CH:23]1.[cH:2]1[c:9]([CH+:27][c:10]2[cH:3][c:16]([F:20])[cH:26][c:17]([F:21])[cH:4]2)[cH:5][c:14]([F:18])[cH:25][c:15]1[F:19]>>[c:1]1([O:6][CH:27]([c:9]2[cH:2][c:15]([F:19])[cH:25][c:14]([F:18])[cH:5]2)[c:10]2[cH:3][c:16]([F:20])[cH:26][c:17]([F:21])[cH:4]2)[cH:22][cH:7][c:13]([N+:24](=[O:11])[O-:12])[cH:8][cH:23]1", "epd": [["LP-/Pi+", [11], [24, 11]], ["Pi-/Pi+", [13, 24], [7, 13]], ["Pi-/Pi+", [22, 7], [1, 22]], ["Pi-/Sigma+", [6, 1], [6, 27]]]}
